US07414045B2
To a solution of 2-iminopiperidin-1-ol hydrochloride in chloroform was added triethylamine. The mixture was stirred for 5 min. at room temperature, then cooled to 0° C. and 1.2 eq. of dimethyl acetylenedicarboxylate were added dropwise under stirring. The cooling bath was removed and the mixture was stirred at room temperature for one hour. The solvent was removed under reduced pressure and the solution was partitioned between ethyl acetate and half saturated aq. ammonium chloride. The aqueous phase was further extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and filtered through silica gel. The solvent was removed under vacuum to afford methyl 2-(2-methoxy-2-oxoethyl)-5,6,7,8-tetrahydro-2H-[1,2,4]oxadiazolo[2,3-a]pyridine-2-carboxylate as a light yellow oil.

reactant | 2-iminopiperidin-1-ol hydrochloride | Cl.N=C1N(CCCC1)O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethyl acetylenedicarboxylate | 1.2 eq. | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(2-methoxy-2-oxoethyl)-5,6,7,8-tetrahydro-2H-[1,2,4]oxadiazolo[2,3-a]pyridine-2-carboxylate | COC(CC1(N=C2N(CCCC2)O1)C(=O)OC)=O | C11H16N2O5
